US07053107B2
4-Methyl-2-vinyl-pyridine
A yellow mixture of 2-bromo-4-methyl-pyridine (Aldrich, 5.2 9, 30.5 mmol, 1.0 eq), 2,6-di-tert-butyl-4-methyl-phenol (Aldrich, 67 mg, 0.3 mmol, 1 mol %), tributyl-vinyl-stannane (Aldrich, 26.8 mL, 91.5 mmol, 3.0 eq) and tetrakis(triphenylphosphine) palladium (0) (Strem, 1.8 9, 1.5 mmol, 5 mol %) in toluene (100 mL) was degassed and purged with argon. An amber solution was obtained after the mixture was warmed to 100° C. The reaction mixture was quenched after 18 hours by the addition of 1.0 M HCl. The acidic extract was washed with ether, adjusted to pH 9 with solid sodium bicarbonate, and extracted with ethyl acetate. The organic extracts were washed with brine, dried over magnesium sulfate, filtered and concentrated under reduced pressure. The crude product (3.7 g of a brown oil) was purified by flash chromatography (silica) and eluted with 0–5% ethyl acetate-dichloromethane, which gave a clear oil (1.9 g, 53%). 1H NMR (DMSO-d6, 300 MHz) δ 8.39 (1H, d, J=4.9 Hz), 7.33 (1H, s), 7.10 (1H, dd, J=5.0, 0.8 Hz), 6.77 (1H, dd, 17.5, 10.8 Hz), 6.20 (1H, dd, J=17.5, 1.7 Hz), 5.44 (1H, dd, J=10.8, 1.8 Hz), 2.31 (3H, s). ESIMS m/z 120 (M+H)+.

reactant | 2-bromo-4-methyl-pyridine | 30.5 mmol, 1.0 eq | BrC1=NC=CC(=C1)C | C6H6BrN
reactant | tributyl-vinyl-stannane | 91.5 mmol, 26.8 mL, 3.0 eq | C(CCC)[Sn](C=C)(CCCC)CCCC
solvent | toluene | 100 mL | C1(=CC=CC=C1)C | C7H8
catalyst | tetrakis(triphenylphosphine) palladium (0) | 1.5 mmol | [Pd].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
catalyst | 2,6-di-tert-butyl-4-methyl-phenol | 0.3 mmol, 67 mg | C(C)(C)(C)C1=C(C(=CC(=C1)C)C(C)(C)C)O | C15H24O
product | 4-Methyl-2-vinyl-pyridine | 1.9 g, 53% | CC1=CC(=NC=C1)C=C | C8H9N
